US08012956B2
A mixture of 3-fluoro-4-hydroxybenzoic acid (500 mg, 3.2 mmol), cesium carbonate (3.1 g, 9.6 mmol) and iodomethane (440 μl, 7.0 mmol) in dimethylformamide (7 mL) was stirred at room temperature for 4 hours. The mixture was diluted with ethyl acetate and washed with 5% aqueous lithium chloride, 1N aqueous sodium hydroxide, brine, then dried over anhydrous sodium sulfate. Filtration and concentration afforded 534 mg, 2.9 mmol (92%) of methyl 3-fluoro-4-(methyloxy)benzoate. MS (EI) for C9H9FO3: 185 (MH+).

reactant | 3-fluoro-4-hydroxybenzoic acid | 3.2 mmol, 500 mg | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | cesium carbonate | 9.6 mmol, 3.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 7.0 mmol, 440 μl | IC | CH3I
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-fluoro-4-(methyloxy)benzoate | 2.9 mmol, 534 mg, 92% | FC=1C=C(C(=O)OC)C=CC1OC | C9H9FO3
